US06001839
A mixture of 5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (600 mg) and tetrakis(triphenylphosphine) palladium (40 ml) and dry dimethyl sulphoxide (30 ml) was stirred under nitrogen in an ice/water bath and then a solution of cyclopentadiene monoepoxide (200 mg) in tetrahydrofuran (10 ml) was added via syringe under nitrogen at 0° C. The mixture was stirred at ambient temperature for 66 hours and then the tetrahydrofuran was removed under reduced pressure and water was added to the residue. The mixture was allowed to stand for 18 hours and then extracted with ethyl acetate to give a residue which was purified by flash column chromatography on silica using ethyl acetate/industrial methylated spirit (9:1) as the mobile phase to give 4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopent-2-enol, as an oil. The structure was confirmed by 1Hnmr and mass spectra.

reactant | 5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 600 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CNC=2N=CN=C(C21)N | C18H14N4O
reactant | dimethyl sulphoxide | 30 ml | CS(=O)C | C2H6OS
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium | 40 ml | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopent-2-enol | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2C=CC(C2)O | C23H20N4O2
